US05214037
To a solution of 3-chloromethylthio-1-methyl-1,2,4-triazole (981 mg : 6.0 mMol.) in acetone (10 ml) is added sodium iodide (1.78 g : 12 mMol.), and the mixture is stirred at 50° C. for 3 hours. The reaction mixture is diluted with water and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate, and concentrated to give 3-iodomethylthio-1-methyl-1,2,4triazole (1.50 g) as yellow oil.

reactant | 3-chloromethylthio-1-methyl-1,2,4-triazole | 6.0 mMol, 981 mg | ClCSC1=NN(C=N1)C | C4H6ClN3S
reactant | sodium iodide | 12 mMol, 1.78 g | [I-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-iodomethylthio-1-methyl-1,2,4triazole | 1.50 g | ICSC1=NN(C=N1)C | C4H6IN3S
